US04115385
6-(2-[2-Azidomethylphenyl]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam
A stirred suspension of 21.73 g. of 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam in 400 ml. of a 50:50 mixture of tetrahydrofuran-water is cooled to ca. 0° C. and the pH is adjusted to 7.5 using 1.0N sodium hydroxide. To the solution thus obtained, is added 17.3 g. of 2-(2-azidomethylphenyl)acetic acid (U.S. Pat. No. 3,766,175), followed by 17.4 g. of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride. The pH drops to 5.5. The reaction mixture is then stirred at ambient temperature, at pH 6, for 3 hours. At this point, the bulk of the tetrahydrofuran is removed by evaporation in vacuo, and the residual aqueous phase is extracted with ethyl acetate. The organic extract is discarded and the aqueuos phase is cooled to ca. 0° C. The pH is then adjusted to 2 and the product is extracted into ethyl acetate. The ethyl acetate is dried and evaporated, leaving 34.8 g. of the title compound as a tan solid. IR(CHCl3) 2100, 1790, 1680 and 1515 cm.-1NMR (DMSO-d6): 7.37 (s, 4H), 5.60 (m, 2H), 5.23 (s, 1H), 4.55 (s, 2H), 3.70 (s, 2H), 1.66 (s, 3H) and 1.06 ppm (s, 3H).

reactant | 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam | NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C8H12N6OS
reactant | sodium hydroxide | 1.0N | [OH-].[Na+]
reactant | 2-(2-azidomethylphenyl)acetic acid | N(=[N+]=[N-])CC1=C(C=CC=C1)CC(=O)O | C9H9N3O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran water | O1CCCC1.O
product | 6-(2-[2-Azidomethylphenyl]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | N(=[N+]=[N-])CC1=C(C=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C17H19N9O2S
